US08802697B2
Synthesis of 3-(3,5-dimethoxyphenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one
To a mixture of 5-((3,5-dimethoxyphenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine (1.1 g, 3.43 mmol) and N-ethyl-N-isopropylpropan-2-amine (1.33 g, 10.30 mmol) in 10 mL of THF was added a solution of triphosgene (357 mg, 1.20 mmol) in 5 mL of THF at 0° C., and stirred for 1 h. The reaction mixture was then warmed to RT and stirred for another 5 h. LCMS showed the reaction was completed. The reaction mixture was quenched by water and extracted with ethyl acetate (3×15 mL). The organic layers were separated, combined, washed with saturated aqueous solution of sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated to afford the title compound (crude 1.1 g, 92%) as a white solid, which was directly used in the next step without further purification. MS (ES+) C16H18N4O3S requires: 346. found: 347 [M+H]+.

reactant | 5-((3,5-dimethoxyphenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine | 3.43 mmol, 1.1 g | COC=1C=C(C=C(C1)OC)NCC=1C(=NC(=NC1)SC)NC | C15H20N4O2S
reactant | N-ethyl-N-isopropylpropan-2-amine | 10.30 mmol, 1.33 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 1.20 mmol, 357 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(3,5-dimethoxyphenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C16H18N4O3S
